US05532367
This compound is prepared in a manner analogous to that of Step A of Example 8, using 2.5 grams (0.010 mole) of 3-amino-2-cyano-6-iodopyridine, 6.4 grams (0.01 3 mole) of tetramethylammonium tetra(4-fluorophenyl)borate, and 0.1 gram (0.0005 mole) of palladium(II) acetate in 50 mL of N,N-dimethylformamide, yielding 3-amino-2-cyano-6-(4-fluorophenylcarbonyl)pyridine.

reactant | 3-amino-2-cyano-6-iodopyridine | 0.010 mole, 2.5 grams | NC=1C(=NC(=CC1)I)C#N | C6H4IN3
reactant | tetramethylammonium tetra(4-fluorophenyl)borate | 3 mole, 6.4 grams | FC1=CC=C(C=C1)[B-](C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F.C[N+](C)(C)C
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.0005 mole, 0.1 gram | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-amino-2-cyano-6-(4-fluorophenylcarbonyl)pyridine | NC=1C(=NC(=CC1)C(=O)C1=CC=C(C=C1)F)C#N | C13H8FN3O
